US07501518B2
To a stirred solution of imidazole (500 mg, 7.35 mmol) and 1,4-dibromobutane (2.6 mL, 22.0) in THF (50 mL) was added 60% NaH (356 mg, 8.81 mmol), and the resultant mixture was refluxed for 2 h and stirred at room temperature overnight. The mixture was quenched with H2O (50 mL) and diluted with CH2Cl2 (75 mL). The aqueous phase was separated and extracted with CH2Cl2 (3×15 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated to dryness. Purification by flash chromatography on silica gel (CH2Cl2/MeOH, 97:3) resulted in partial decomposition of 1-(4-bromo-butyl)-1H-imidazole. This material was used without any further purification. Using General Procedure A: 3,3″-dimethyl-1′,2′,3′,4′,5′,6′-hexahydro-[2,2′;6′,2″]terpyridine (94.4 mg, 0.353 mmol), impure 1-(4-bromo-butyl)-1H-imidazole (145 mg), KI (6.0 mg, 0.035 mmol), DIPEA (0.18 mL, 1.02 mmol), and DMF (3.5 mL) were stirred for 48 h at 60° C. Purification of the crude material by radial chromatography on a 1 mm TLC grade silica gel plate (CH2Cl2/MeOH/NH4OH, 96:2:2) afforded the free base of the title compound (47 mg, 34% over 2 steps) as a colorless oil.

reactant | imidazole | 7.35 mmol, 500 mg | N1C=NC=C1 | C3H4N2
reactant | 1,4-dibromobutane | 2.6 mL | BrCCCCBr | C4H8Br2
reactant | NaH | 8.81 mmol, 356 mg | [H-].[Na+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 1-(4-bromo-butyl)-1H-imidazole | BrCCCCN1C=NC=C1 | C7H11BrN2
